US07173031B2
A) Methyl 5-nitro-2-oxo-1,2-dihydropyridine-3-carboxylate
To a solution of 2-hydroxy-5-nitronicotinic acid (0.80 g, 4.35 mmol, Combi-Blocks) in methanol (10 mL) at 0° C. was added thionyl chloride (1 mL) dropwise. The mixture was stirred at 0° C. for 1 h, then at 60° C. for 2 h. The excess methanol was removed under reduced pressure and the residue was neutralized with aqueous sodium bicarbonate solution. The solid was collected, washed with water and dried to afford the title compound (0.85 g, 99%). 1H NMR (DMSO-d6) δ 8.44 (s, 1H), 8.34 (s, 1H), 3.67 (s, 3H); MS(ESI+) m/z 199 (M+H)+.

reactant | 2-hydroxy-5-nitronicotinic acid | 4.35 mmol, 0.80 g | OC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C6H4N2O5
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 10 mL | CO | CH4O
product | Methyl 5-nitro-2-oxo-1,2-dihydropyridine-3-carboxylate | 0.85 g, 99% | [N+](=O)([O-])C=1C=C(C(NC1)=O)C(=O)OC | C7H6N2O5
